US05681679
N,N'-diphenyl-N,N'-bis(3-hydroxyphenyl)-[1,1'-biphenyl]-4,4'-diamine;
N,N,N',N',-tetra(3-hydroxyphenyl)-[1,1'-biphenyl]-4,4'-diamine; N,N-di(3-hydroxyphenyl)-m-toluidine; 1,1-bis-[4-(di-N,N-m-hydroxpyphenyl)-aminophenyl]-cyclohexane; 1,1-bis[4-(N-m-hydroxyphenyl)-4-(N-phenyl)-aminophenyl]-cyclohexane; Bis-(N-(3-hydroxyphenyl)-N-phenyl-4-aminophenyl)-methane; Bis[(N-(3-hydroxyphenyl)-N-phenyl)-4-aminophenyl]-isopropylidene; N,N'-diphenyl-N,N'-bis(3-hydroxyphenyl)-[1,1':4', 1"-terphenyl]-4,4"-diamine; 9-ethyl-3.6-bis[N-phenyl-N-3(3-hydroxyphenyl)-amino]-carbazole; 2,7-bis[N,N-di(3-hydroxyphenyl)-amino]-fluorene; 1,6-bis[N,N-di(3-hydroxyphenyl)-amino]-pyrene; 1,4-bis[N-phenyl-N-(3-hydroxyphenyl)]-phenylenediamine. N,N'-diphenyl-N-N'-bis(4-hydroxy phenyl)[1,1'-biphenyl]-4,4'-diamine N,N,N',N',-tetra(4-hydroxyphenyl)-[1,1'-biphenyl]-4,4'-diamine; N,N-di(4-hydroxyphenyl)-m-toluidine; 1,1-bis-[4-(di-N,N-p-hydroxpyphenyl)-aminophenyl]-cyclohexane; 1,1-bis[4-(N-o-hydroxyphenyl)-4-(N-phenyl)-aminophenyl]-cyclohexane; Bis-(N-(4-hydroxyphenyl)-N-phenyl-4-aminophenyl)-methane; Bis[(N-(4-hydroxyphenyl)-N-phenyl)-4-aminophenyl]-isopropylidene; Bis-N,N-[(4'-hydroxy-4-(1,1'-biphenyl)]-aniline Bis-N,N-[(2'-hydroxy-4-(1,1'-biphenyl)]-aniline

reactant | N,N,N',N',-tetra(3-hydroxyphenyl)-[1,1'-biphenyl]-4,4'-diamine | OC=1C=C(C=CC1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC(=CC=C1)O)C1=CC(=CC=C1)O)C1=CC(=CC=C1)O | C36H28N2O4
reactant | N,N-di(3-hydroxyphenyl)-m-toluidine | OC=1C=C(C=CC1)N(C1=CC(=CC=C1)C)C1=CC(=CC=C1)O | C19H17NO2
reactant | Bis-(N-(3-hydroxyphenyl)-N-phenyl-4-aminophenyl)-methane | OC=1C=C(C=CC1)N(C1=CC=C(C=C1)CC1=CC=C(C=C1)N(C1=CC(=CC=C1)O)C1=CC=CC=C1)C1=CC=CC=C1 | C37H30N2O2
reactant | N,N'-diphenyl-N,N'-bis(3-hydroxyphenyl)-[1,1':4', 1"-terphenyl]-4,4"-diamine | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC(=CC=C1)O)C1=CC=CC=C1)C1=CC(=CC=C1)O | C42H32N2O2
reactant | 2,7-bis[N,N-di(3-hydroxyphenyl)-amino]-fluorene | OC=1C=C(C=CC1)N(C1=CC(=CC=C1)O)C1=CC=2CC3=CC(=CC=C3C2C=C1)N(C1=CC(=CC=C1)O)C1=CC(=CC=C1)O | C37H28N2O4
reactant | 1,6-bis[N,N-di(3-hydroxyphenyl)-amino]-pyrene | OC=1C=C(C=CC1)N(C1=CC(=CC=C1)O)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)N(C3=CC(=CC=C3)O)C3=CC(=CC=C3)O | C40H28N2O4
reactant | N,N-di(4-hydroxyphenyl)-m-toluidine | OC1=CC=C(C=C1)N(C1=CC(=CC=C1)C)C1=CC=C(C=C1)O | C19H17NO2
reactant | Bis-(N-(4-hydroxyphenyl)-N-phenyl-4-aminophenyl)-methane | OC1=CC=C(C=C1)N(C1=CC=C(C=C1)CC1=CC=C(C=C1)N(C1=CC=C(C=C1)O)C1=CC=CC=C1)C1=CC=CC=C1 | C37H30N2O2
product | N,N'-diphenyl-N,N'-bis(3-hydroxyphenyl)-[1,1'-biphenyl]-4,4'-diamine | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC(=CC=C1)O)C1=CC=CC=C1)C1=CC(=CC=C1)O | C36H28N2O2
